US07250410B2
N-[2-(7,8-dimethoxy-2-oxo-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepin-3-yl)benzyl]methylacetamide, Icm.
By replacing 7,8-dimethoxy-1-ethyl-3-(2-aminobenzyl)-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one (IIca) in example IIcf by 7,8-dimethoxy-1-ethyl-3-(2-aminomethylbenzyl)-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one (IIcg) and proceeding in the same manner, the abovenamed product is obtained. Yield: 55%. M: 122–124° C. 1H-NMR (CDCl3, 200 MHz): d 1.07–1.14 (m, 3H, CH3), 1.49 (s, 1H, COCH3), 3.41–3.80 (m, 6H, CHCH2+1HNCH2+OCH3), 3.89–3.98 (m, 4H, CHCH2+OCH3), 4.34–4.45 (m, 1HNCH2), 6.60 (s, 1H Ar), 4.55–4.57 (m, 2H, CH2NHAc), 6.52 (s, 6.85 (s, 1H Ar), 7.18–8.45 (m, 9H Ar), 8.45 (m, 1H, NHAc).

reactant | 7,8-dimethoxy-1-ethyl-3-(2-aminobenzyl)-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | COC=1C(=CC2=C(C(=NC(C(N2CC)=O)CC2=C(C=CC=C2)N)C2=CC=CC=C2)C1)OC | C26H27N3O3
reactant | 7,8-dimethoxy-1-ethyl-3-(2-aminomethylbenzyl)-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | COC=1C(=CC2=C(C(=NC(C(N2CC)=O)CC2=C(C=CC=C2)CN)C2=CC=CC=C2)C1)OC | C27H29N3O3
product | N-[2-(7,8-dimethoxy-2-oxo-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepin-3-yl)benzyl]methylacetamide | Yield: 55% | COC=1C(=CC2=C(C(=NC(C(N2)=O)C2=C(CCNC(C)=O)C=CC=C2)C2=CC=CC=C2)C1)OC | C27H27N3O4
